US04446151
(B) 1-Fluoro-2-phthalimido-4-methyl-4-pentene
A mixture of 1-fluoro-2-amino-4-methyl-4-pentene (52.5 g, 450 mmoles) prepared as in step A above, N-carbethoxyphthalimide (98.55 g, 450 mmoles), and benzene (600 mL) is kept overnight at room temperature. The solution is concentrated under vacuum, the oily residue is dissolved in methylene chloride (500 mL) and treated with 50 g of triethylamine during 4 hours at room temperature. After extraction with 2 N hydrochloric acid (6×500 mL), the organic layer is dried over sodium sulfate and discoloured by filtration through a layer of silica gel and another of carbon black. The oily residue obtained after concentration (110 g) is extracted several times with petroleum ether to remove some insoluble N-carbethoxyphthalimide. Evaporation of the petroleum ether affords a yellow oil (94 g) which is crystallized from pentane at low temperature (85 g, 77%).

reactant | 1-fluoro-2-amino-4-methyl-4-pentene | 450 mmoles, 52.5 g | FCC(CC(=C)C)N | C6H12FN
reactant | N-carbethoxyphthalimide | 450 mmoles, 98.55 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | benzene | 600 mL | C1=CC=CC=C1 | C6H6
product | 1-Fluoro-2-phthalimido-4-methyl-4-pentene | 94 g | FCC(CC(=C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C14H14FNO2
